US05244673
A mixture was prepared by combining aprotinin 1 g.; elastatinal 0.1 g.; flurbiprofen 0.1 g.; dexamethasone sodium phosphate 0.1 g.; neomycin sulfate; and physiological saline up to 100 g. A contact lens form the crosslinked polymer of 2-hydroxyethyl methacrylate (38 percent by weight of equilibrium water) was swelled in the given solution for 24 hours. The contact lens was used for the treatment of nonhealing corneal erosions. Within a week after application the reepithalization was sped up. Extraordinary results were attained after severe etching and burning of the anterior segment of the eye. The intraocular inflammation did not develop, the cornea did not exhibit ulceration and healed with a scar to place within a month. The transparency recovered in the periphery of the cornea.

reactant | elastatinal | 0.1 g | C[C@@H](C=O)NC(=O)[C@H](CCC(=O)N)NC(=O)[C@H]([C@@H]1CCNC(=N)N1)NC(=O)N[C@@H](CC(C)C)C(=O)O | C21H36N8O7
reactant | flurbiprofen | 0.1 g | CC(C=1C=CC(=C(C1)F)C=2C=CC=CC2)C(=O)O | C15H13FO2
reactant | dexamethasone sodium phosphate | 0.1 g | C[C@@H]1C[C@H]2[C@@H]3CCC4=CC(=O)C=C[C@@]4([C@]3([C@H](C[C@@]2([C@]1(C(=O)COP(=O)(O)[O-])O)C)O)F)C.[Na+]
reactant | neomycin sulfate | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)N)O[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O[C@@H]4[C@@H]([C@H]([C@@H]([C@@H](O4)CN)O)O)N)O)O)N.OS(=O)(=O)O
product | 2-hydroxyethyl methacrylate | C(C(=C)C)(=O)OCCO | C6H10O3
